US07960572B2
A solution under stirring of 2-chloro-1-(6-fluoro-3,4-dihydro-2H-chromen-2-yl)ethanone (0.33 g, 1.28 mmol, 88.4 A %) in ethanol (2.5 ml) was cooled to 0° C. under nitrogen. NaBH4 (60.1 mg, 1.59 mmol) was added to the solution and the reaction mixture stirred for 2 hours. After checking that the starting product had disappeared by GC, the mixture was diluted with demi water (7 ml) and dichloromethane (7 ml) and the phases separated. The organic stratum was dried under anhydrous sodium sulphate, filtered and concentrated under vacuum to give raw 2-chloro-1-(6-fluoro-3,4-dihydro-2H-chromen-2-yl) ethanol as a mixture of diastereoisomers 54:46 (0.30 g, 70% yield, 67.9 A %).

reactant | 2-chloro-1-(6-fluoro-3,4-dihydro-2H-chromen-2-yl)ethanone | ClCC(=O)C1OC2=CC=C(C=C2CC1)F | C11H10ClFO2
reactant | NaBH4 | 1.59 mmol, 60.1 mg | [BH4-].[Na+]
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
solvent | water | 7 ml | O | H2O
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | 2-chloro-1-(6-fluoro-3,4-dihydro-2H-chromen-2-yl) ethanol | 70% yield | ClCC(O)C1OC2=CC=C(C=C2CC1)F | C11H12ClFO2
